US09284271B2
N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide was prepared according to method C with triethylamine (1.19 mL; 8.48 mmol), 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride (0.800 g; 3.90 mmol) and 2-iodobenzoyl chloride (0.968 g; 3.56 mmol) in dichloromethane (75 mL). The mixture was stirred for 20 minutes at room temperature and was evaporated to dryness. The crude material was purified by flash chromatography on silica gel (eluent 1 to 10% ethyl acetate in dichloromethane) to furnish 1.32 g (92%) of N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide as a white solid.

reactant | triethylamine | 8.48 mmol, 1.19 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride | 3.90 mmol, 0.800 g | Cl.ClC=1C=C2C(=CNC2=CC1)CCN
reactant | 2-iodobenzoyl chloride | 3.56 mmol, 0.968 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide | 1.32 g, 92% | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=C(C=CC=C1)I)=O | C17H14ClIN2O
